data/oMe_Silver.jsonl
{"reaction_id": "NR-118_1-C(C)(C)C_2-C(c1ccccc1)c2ccccc2_3-C#N_4-C(C)C_5-c1ccc(OC)cc1_6-c1ccc(F)cc1","name": "Johnson-Corey-Chaykovsky Reaction","level": "medium","reactants_smiles": ["C([H])(C#N)(C(C)C)[S+](C(C)(C)C)(C(c1ccccc1)c2ccccc2)","C(=O)(c1ccc(OC)cc1)(c1ccc(F)cc1)"],"products_smiles": ["C1(C#N)(C(C)C)OC1(c1ccc(OC)cc1)(c1ccc(F)cc1)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C#N)(C(C)C)[S+](C(C)(C)C)(C(c1ccccc1)c2ccccc2)","rationale": "The base abstracts the acidic α-proton adjacent to the positively charged sulfur, as the resulting carbanion is stabilized by the adjacent sulfonium through inductive and resonance effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(c1ccc(OC)cc1)(c1ccc(F)cc1)C(C#N)(C(C)C)[S+](C(C)(C)C)(C(c1ccccc1)c2ccccc2)","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, driven by the strong polarization of the C=O bond and stabilization of the resulting alkoxide by solvation under basic conditions."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C#N)(C(C)C)OC1(c1ccc(OC)cc1)(c1ccc(F)cc1)","rationale": "The alkoxide oxygen intramolecularly attacks the adjacent carbon bearing the sulfonium, as the sulfonium is an excellent leaving group, facilitating ring closure to the strained but thermodynamically favorable epoxide."}],"description": "Under basic conditions, the sulfonium ylide is generated by deprotonation, enabling nucleophilic attack on the carbonyl to form a betaine intermediate. Intramolecular cyclization via displacement of the sulfonium group yields the epoxide product with retention of substituent patterns."}
{"reaction_id": "NG-004_1-C(C)(C)C_2-C(C)(C)C_3-OCC","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(C(C)(C)C)C=O","C(C(C)(C)C)(OCC)=O"],"products_smiles": ["C(C(C)(C)C)(OCC)=C(C=O)C(C)(C)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(OCC)([O-])C(C=O)C(C)(C)C","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of C(C)(C)C, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(OCC)(O)C(C=O)C(C)(C)C","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(OCC)(O)C=C([O-])C(C)(C)C","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)(OCC)=C(C=O)C(C)(C)C","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
{"reaction_id": "NR-208_1-C_2-Cl_3-C_4-c1ccc(C(F)(F)F)cc1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C)=C(Cl)C(C)(c1ccc(C(F)(F)F)cc1)OC=N"],"products_smiles": ["C(=O)NC(C)C(Cl)=C(C)(c1ccc(C(F)(F)F)cc1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C)C(Cl)=C(C)(c1ccc(C(F)(F)F)cc1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
